Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]=[C:3]1[O:4][O:5][C@:6]1([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2][C:3]([O:4][O:5])[C:6]([H:7])[C:8]([H:9])([H:10])[H:11],1.5942658194
[H:1][O:2][C:3][C:4]([H:5])[O:6][C:7]([H:8])[H:9]>>[C:7]([H:8])[H:9].[H:1][O:2][C:3][C:4]([H:5])=[O:6],3.63841132151
[C:7]([H:8])#[C:9][O:10][H:11].[H:1][C:2]=[C:3]([H:4])[C:5][H:6]>>[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9][O:10][H:11],-3.54674307258
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[C:12]([H:13])[H:14].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][H:11],8.60518887342
[H:1][C:2]=[C:3]([H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[C:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[O:12][H:13].[H:1][C:2]#[C:3][H:4],1.29466790057
[C:1][C:2]([H:3])([H:4])[C:5](=[O:6])[C:7]([H:8])([H:9])[H:10]>>[C:1]=[C:2]([H:3])[H:4].[C:5](=[O:6])[C:7]([H:8])([H:9])[H:10],0.872893330809
[H:1][O:2][C:3][C:4]#[C:5][C:7]([O:6])([H:8])[H:9]>>[H:1][O:2][C:3]=[C:4]=[C:5]1[O:6][C:7]1([H:8])[H:9],-1.56712666604
[H:1][C:2][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11].[H:3]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],-5.2693006040400014
[H:1][C:2]([H:3])[O:4][C:5]#[C:6][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:7]>>[H:1][C:2]([H:3])[O:4]/[C:5]=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-2.59724899635
[H:1][O:2][C:3]([H:4])[C:5]#[C:6][C:8]([H:9])=[C:10]([H:11])[H:12].[H:7]>>[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-3.678482894130002
[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],4.52907940299
[C:10]([H:11])[H:12].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8][H:9]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12],-7.39223773921
[H:1][C:2][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14].[H:3]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-5.31769779621
[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:8],1.85508514022
[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[O:1]>>[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-8.03685198014
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:1][C:2][C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12].[H:3],5.14721362339
[H:1][C:2][C:3]#[C:4][C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:2][C:3]#[C:4][C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1],3.65180118674
[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][O:8][C:9]([H:10])([H:11])[H:12]>>[C:3]([H:4])=[C:5]([H:6])[O:7][O:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2],6.495834320519999
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])[C:4]([H:5])=[O:6],2.81434737682
[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:3]([H:4])=[C:5]([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12].[H:1][C:2],6.44058360325
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9],3.70428108429
[C:5]([H:6])([H:7])=[C:8]=[C:9]([H:10])[H:11].[O:1]=[C:2]([H:3])[O:4]>>[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11],-1.1405653434
[H:1][O:2][C:3]#[C:4][O:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][O:2][C:3]#[C:4][O:5][C:6][C:8]([H:9])([H:10])[H:11].[H:7],4.00839391302
[C:1]#[C:2].[C:3](=[C:4][H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1]#[C:2][C:3]([C:4][H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-2.14538256206
[C:5]([H:6])=[C:7]([H:8])[C:9]([H:10])([H:11])[O:12][H:13].[H:1][C:2]#[C:3][H:4]>>[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[O:12][H:13],-2.11396024763
[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[C:12]([H:13])[H:14].[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11],5.22125872
[O:1]=[C:2]([C:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:2](#[C:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[O:1],2.8525384737
[H:1][O:2][C:3]([H:4])=[C:6]=[C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12],-1.5864940522
